US07902239B2
4-(5-Amino-3-phenylamino-[1,2,4]triazol-1-yl)-6-phenylamino-1H-pyrimidin-2-one
1-(2-Methanesulfonyl-6-phenylamino-pyrimidin-4-yl)-N3-phenyl-1H-[1,2,4]triazole-3,5-diamine (12 mg, 0.028 mMol) was stirred at ambient temperature in 500 uL of DMF with 200 uL of 1N NaOH for 2 hrs. The reaction was quenched with water and a precipitate allowed come out of solution. The filtrate was decanted off and the solid was resuspended with water, allowed to settle, and again decanted. The solid was transferred to a round bottom flask with acetonitrile and the solvents removed under reduced pressure. The resultant material, a beige yellow solid, resulted in 90% yield.

reactant | 1-(2-Methanesulfonyl-6-phenylamino-pyrimidin-4-yl)-N3-phenyl-1H-[1,2,4]triazole-3,5-diamine | 0.028 mMol, 12 mg | CS(=O)(=O)C1=NC(=CC(=N1)N1N=C(N=C1N)NC1=CC=CC=C1)NC1=CC=CC=C1 | C19H18N8O2S
reactant | NaOH | 1N, 200 uL | [OH-].[Na+]
solvent | DMF | 500 uL | CN(C)C=O | C3H7NO
product | 4-(5-Amino-3-phenylamino-[1,2,4]triazol-1-yl)-6-phenylamino-1H-pyrimidin-2-one | 90% yield | NC1=NC(=NN1C1=NC(NC(=C1)NC1=CC=CC=C1)=O)NC1=CC=CC=C1 | C18H16N8O
